US06887896B1
(2E)-3-(8-tert-Butyl-3-ethoxy-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-2-fluoro-pent-2-enal (Compound A-65)
As described in General Procedure H-1, (2E)-3-(8-tert-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-2-fluoro-pent-2-en-1-ol (Compound A-56, 487 mg, 1.61 mmol), tetrapropylammonium peruthenate (316 mg, 2.7 mmol) and 4-methylmorpholine N-oxide (3.5 mg) were reacted in acetonitrile (4 mL) and dichloromethane (8 mL) to produce the title compound as an oil after flash chromatography (silica gel, 10% ethyl acetate in hexane).

reactant | (2E)-3-(8-tert-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-2-fluoro-pent-2-en-1-ol | 1.61 mmol, 487 mg | C(C)(C)(C)C1=CCC(C=2C=C(C(=CC12)/C(=C(\CO)/F)/CC)OCC)(C)C | C23H33FO2
reactant | tetrapropylammonium | 2.7 mmol, 316 mg | C(CC)[N+](CCC)(CCC)CCC
reactant | 4-methylmorpholine N-oxide | 3.5 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2E)-3-(8-tert-Butyl-3-ethoxy-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-2-fluoro-pent-2-enal | C(C)(C)(C)C1=CCC(C=2C=C(C(=CC12)/C(=C(\C=O)/F)/CC)OCC)(C)C | C23H31FO2
